US07091214B2
A solution of N1-(3-nitro-7-phenylquinolin-4-yl)-2-methylpropane-1,2-diamine (3.56 g, 10.6 mmol) in dichloromethane (100 mL) was cooled to 0° C. Triethylamine (3.0 mL, 21 mmol) and cyclohexanecarbonyl chloride (1.55 mL, 11.6 mmol) were sequentially added. The reaction was allowed to warm to ambient temperature and stirred for two hours. The reaction was washed sequentially with water (2×100 mL) and brine (100 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 65:35 hexanes:ethyl acetate) to provide 3.33 g of cyclohexane N-[1,1-dimethyl-2-(3-nitro-7-phenylquinolin-4-ylamino)ethyl]carboxamide as a yellow solid.

reactant | N1-(3-nitro-7-phenylquinolin-4-yl)-2-methylpropane-1,2-diamine | 10.6 mmol, 3.56 g | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1NCC(C)(N)C)C1=CC=CC=C1 | C19H20N4O2
reactant | Triethylamine | 21 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 11.6 mmol, 1.55 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | cyclohexane N-[1,1-dimethyl-2-(3-nitro-7-phenylquinolin-4-ylamino)ethyl]carboxamide | 3.33 g | CC(CNC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-])(C)NC=O.C1CCCCC1 | InChI=1S/C20H20N4O3.C6H12/c1-20(2,23-13-25)12-22-19-16-9-8-15(14-6-4-3-5-7-14)10-17(16)21-11-18(19)24(26)27;1-2-4-6-5-3-1/h3-11,13H,12H2,1-2H3,(H,21,22)(H,23,25);1-6H2
